US08729095B2
To a tetrahydrofuran solution (7.0 ml) of methyl 5-(2-{[(1R)-3-{[tert-butyl(diphenyl)silyl]oxy}-1-ethylpropyl]oxy}phenyl)-3-fluoropyridine-2-carboxylate (440 mg) was added at room temperature 1 N aqueous sodium hydroxide solution (1.69 ml), followed by stirring for 2 hours. The reaction solution was poured into a 10% aqueous citric acid solution, and extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure to afford 5-(2-{[(1R)-3-{[tert-butyl(diphenyl)silyl]oxy}-1-ethylpropyl]oxy}phenyl)-3-fluoropyridine-2-carboxylic acid (429 mg).

reactant | methyl 5-(2-{[(1R)-3-{[tert-butyl(diphenyl)silyl]oxy}-1-ethylpropyl]oxy}phenyl)-3-fluoropyridine-2-carboxylate | 440 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC[C@@H](CC)OC1=C(C=CC=C1)C=1C=C(C(=NC1)C(=O)OC)F | C34H38FNO4Si
reactant | sodium hydroxide | 1 N, 1.69 ml | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 7.0 ml | O1CCCC1 | C4H8O
product | 5-(2-{[(1R)-3-{[tert-butyl(diphenyl)silyl]oxy}-1-ethylpropyl]oxy}phenyl)-3-fluoropyridine-2-carboxylic acid | 429 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC[C@@H](CC)OC1=C(C=CC=C1)C=1C=C(C(=NC1)C(=O)O)F | C33H36FNO4Si
